US04435406
21.2 g of 1,3-benzodioxane-6,7-diamine was dissolved while heating in 300 ml of alcohol, then diluted with 75 ml of water, treated with 23.6 g of potassium ethylxanthate and boiled under reflux overnight. Subsequently, there were added thereto 300 ml of water and at 60°-70° C. 20 ml of glacial acetic acid. After stirring at this temperature for 1 hour, the suspension was cooled, suction filtered and washed with water. 21.6 g (81.2% of theory) of 1,8-dihydro-m-dioxino(5,4-f)benzimidazole-2-thiol of melting point 288°-289° C. were obtained.

reactant | 1,3-benzodioxane-6,7-diamine | 21.2 g | O1COCC2=C1C=C(C(=C2)N)N | C8H10N2O2
reactant | potassium ethylxanthate | 23.6 g | C(C)OC(=S)[S-].[K+]
reactant | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
solvent | water | 75 ml | O | H2O
solvent | water | 300 ml | O | H2O
product | 1,8-dihydro-m-dioxino(5,4-f)benzimidazole-2-thiol | 21.6 g, 81.2% | N1C(=NC2=C1C=C1C(=C2)OCOC1)S | C9H8N2O2S
